US04226876
A solution of acetic anhydride (3.0 ml; 0.032 moles) in diethyl ether (10 ml) was added dropwise, during 10 minutes, to a stirred suspension of 2-(2,3-dimethylphenoxymethyl)-2-imidazoline (6.12 g; 0.030 mole) (prepared from O-ethyl-2,3-dimethylphenoxyacetimidate and ethylene diamine) in diethyl ether (100 ml) cooling the mixture to keep its temperature below 20° C. After stirring for 2 hours the reaction mixture was filtered and the precipitate recrystallised from acetone to yield white crystals of 2-(2,3-dimethylphenoxymethyl)-1-acetyl-2-imidazoline, m.p. 127°-130° C. Analysis: Calculated C 68.27, H 7.37, N 11.37% Found: C 68.13, H 7.44, N 11.13%.

reactant | acetic anhydride | 0.032 moles, 3.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2,3-dimethylphenoxymethyl)-2-imidazoline | 0.030 mole, 6.12 g | CC1=C(OCC=2NCCN2)C=CC=C1C | C12H16N2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(2,3-dimethylphenoxymethyl)-1-acetyl-2-imidazoline | CC1=C(OCC=2N(CCN2)C(C)=O)C=CC=C1C | C14H18N2O2
